US08685958B2
(3-(4-(6-oxa-2-azaspiro[3.4]octan-2-ylmethyl)phenoxy)azetidin-1-yl)(5-(4-methoxyphenyl)-1,3,4-oxadiazol-2-yl)methanone
6-Oxa-2-azaspiro[3.4]octane HCl salt (0.052 g, 0.35 mmol) was dissolved in dichloromethane (2 ml). Triethylamine (0.052 ml, 0.38 mmol) was added, followed by 4-(1-(5-(4-methoxyphenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde (0.11 g, 0.29 mmol) and then sodium triacetoxyhydroborate (0.123 g, 0.58 mmol). The reaction was stirred at ambient temperature overnight. The reaction mixture was then diluted with dichloromethane (10 ml), after which it was shaken with NaHCO3 (sat. 2 ml).

reactant | 6-Oxa-2-azaspiro[3.4]octane HCl salt | 0.35 mmol, 0.052 g | Cl.C1NCC12COCC2
reactant | Triethylamine | 0.38 mmol, 0.052 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(1-(5-(4-methoxyphenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde | 0.29 mmol, 0.11 g | COC1=CC=C(C=C1)C1=NN=C(O1)C(=O)N1CC(C1)OC1=CC=C(C=O)C=C1 | C20H17N3O5
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 2 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3-(4-(6-oxa-2-azaspiro[3.4]octan-2-ylmethyl)phenoxy)azetidin-1-yl)(5-(4-methoxyphenyl)-1,3,4-oxadiazol-2-yl)methanone | C1N(CC12COCC2)CC2=CC=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=C(C=C1)OC)C=C2 | C26H28N4O5
